US08623889B2
N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide
7-(5-Fluoro-2-methylphenyl)isoquinolin-3-amine (150 mg, 0.595 mmol), tetrahydro-2H-pyran-4-carboxylic acid (1.43 mmol, 185 mg), N,N-diisopropylethylamine (384 mg, 2.98 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (543 mg, 1.43 mmol) were dissolved in dichloromethane (10 mL). The reaction mixture was stirred at room temperature for 48 hours. Water (1 mL) was added, and the mixture was concentrated, washed with methanol to give the product (45.2 mg, 21.0%). LCMS (ESI): RT (min)=1.203, M+H+=365.0, method=A; 1H NMR (400 MHz, DMSO-d6) δ 10.60 (s, 1H), 9.15 (s, 1H), 8.52 (s, 1H), 8.02 (s, 1H), 7.93 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.36 (s, 1H), 7.14 (d, J=12.0 Hz, 2H), 3.92-3.88 (m, 2H), 3.36-3.32 (m, 2H), 2.81-2.80 (m, 1H), 2.23 (s, 3H), 1.71-1.66 (m, 4H).

reactant | 7-(5-Fluoro-2-methylphenyl)isoquinolin-3-amine | 0.595 mmol, 150 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | tetrahydro-2H-pyran-4-carboxylic acid | 1.43 mmol, 185 mg | O1CCC(CC1)C(=O)O | C6H10O3
reactant | N,N-diisopropylethylamine | 2.98 mmol, 384 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.43 mmol, 543 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | 1 mL | O | H2O
product | N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)tetrahydro-2H-pyran-4-carboxamide | 45.2 mg, 21.0% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CCOCC1)C | C22H21FN2O2
